US08049013B2
Step 4: 2-(4-Chloro-phenyl)-4-methoxycarbonylmethyl-thiazole-5-carboxylic acid
Mix 4-carboxymethyl-2-(4-chloro-phenyl)-thiazole-5-carboxylic acid (145 g, 482 mmol) in MeOH (900 mL) and treat with sulfuric acid (1.20 mL, 21.68 mmol). Stir the mixture at reflux overnight and then begin distilling the MeOH to concentrate the solution. Collect about 300 mL of MeOH and then reflux for an additional 5 h. Filter the reaction mixture and cool the filtrate in an ice bath for one hour. Collect the yellow precipitate by filtration and rinse with cool MeOH. Dry the solid in a vacuum oven at 45° C. overnight to give 105 g of the title compound. Concentrate the above filtrate to about 200 mL volume and collect 20 g of additional material. 1H NMR (DMSO-d6, 500 MHz): δ 13.72 (br s, 1H), 8.00 (d, 2H, J=8.4), 7.59 (d, 2H, J=8.8), 4.21 (s, 2H), 3.64 (s, 3H).

reactant | 4-carboxymethyl-2-(4-chloro-phenyl)-thiazole-5-carboxylic acid | 482 mmol, 145 g | C(=O)(O)CC=1N=C(SC1C(=O)O)C1=CC=C(C=C1)Cl | C12H8ClNO4S
reactant | sulfuric acid | 21.68 mmol, 1.20 mL | S(O)(O)(=O)=O | H2O4S
reactant | MeOH | 900 mL | CO | CH4O
product | 2-(4-Chloro-phenyl)-4-methoxycarbonylmethyl-thiazole-5-carboxylic acid | 105 g | ClC1=CC=C(C=C1)C=1SC(=C(N1)CC(=O)OC)C(=O)O | C13H10ClNO4S
